US08202873B2
4-(1-Methyl-1H-pyrazol-4-ylmethyl)-3′-(2,3-difluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine
Dissolve 3′-chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl (160 mg, 0.55 mmol) in N,N-dimethylacetamide (4 mL) and water (2 mL) and purge with nitrogen for 0.5 hr. Add potassium carbonate (180 mg, 1.30 mmol) then 2,3-difluorobenzeneboronic acid (100 mg, 0.66 mmol) and purge with nitrogen for 0.5 hr. Add tetrakis(triphenylphosphine)palladium(0) (0.01 g, 0.0086 mmol) and heat at 110° C. for 3.25 hr. Cool to room temperature and purify (silica gel chromatography, eluting with 0:100 to 30:70 methanol:DCM), followed by reverse phase HPLC to give the title compound (52.69 mg, 26%). MS (ES): m/z=371 [M+H]+.

reactant | 3′-chloro-4-(1-methyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | 0.55 mmol, 160 mg | ClC=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1)C | C13H17ClN6
reactant | potassium carbonate | 1.30 mmol, 180 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3-difluorobenzeneboronic acid | 0.66 mmol, 100 mg | FC1=C(C=CC=C1F)B(O)O | C6H5BF2O2
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
solvent | water | 2 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0086 mmol, 0.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(1-Methyl-1H-pyrazol-4-ylmethyl)-3′-(2,3-difluorophenyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazine | 52.69 mg, 26% | CN1N=CC(=C1)CN1CCN(CC1)C1=NC=CN=C1C1=C(C(=CC=C1)F)F | C19H20F2N6
